US06147088
Step 3.2A 2-{2-[7-chloro-6-diisobutylcarbamoyl-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-[2-(1-tert-butoxycarbonyl-piperidin-2-yl)-ethoxy]-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinoline-6-carboxylic acid (48 mg in 0.50 mL methylene chloride) was added 12 mg 1-hydroxybenzotriazole (HOBt) followed by 0.020 mL diisobutylamine, 0.025 mL triethylamine and 33 mg 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) and the mixture stirred at room temperature. After 22 hours, the mixture was diluted with methylene chloride and washed with 10% aqueous sodium bisulfate and brine. The organics were dried over sodium sulfate and the concentrate purified by flash chromatography on silica gel (chloroform:methanol, 97.5:2.5) to give the title compound (37 mg).

reactant | 4-[2-(1-tert-butoxycarbonyl-piperidin-2-yl)-ethoxy]-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinoline-6-carboxylic acid | 0.50 mL, 48 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(=O)O)Cl)=O)C1=CC(=CC(=C1)C)C | C30H35ClN2O6
reactant | 1-hydroxybenzotriazole | 12 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisobutylamine | 0.020 mL | C(C(C)C)NCC(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 33 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.025 mL | C(C)N(CC)CC | C6H15N
product | 2-{2-[7-chloro-6-diisobutylcarbamoyl-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 37 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)C(N(CC(C)C)CC(C)C)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C38H52ClN3O5
